US08633237B2
a) (S)-N-(5-(3-(chloromethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide
To a solution of (S)-N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (1.053 mmol, 450 mg) in CH2Cl2 (8 mL) was added Thionyl chloride (2.316 mmol, 0.169 mL, 276 mg) and the whole was stirred for 2 h at RT before the reaction mixture was concentrated under reduced pressure and re-dissovled in DCM. The process was repeated ×4 to drive off the excess thionyl chloride. The material was used immediately in the next reaction.

reactant | (S)-N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 1.053 mmol, 450 mg | OCC=1C=C(CC=2C=C3C[C@H](CC3=CC2)NS(=O)(=O)C(C)C)C=C(C1)C(F)(F)F | C21H24F3NO3S
reactant | Thionyl chloride | 2.316 mmol, 0.169 mL, 276 mg | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-(5-(3-(chloromethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | ClCC=1C=C(CC=2C=C3C[C@H](CC3=CC2)NS(=O)(=O)C(C)C)C=C(C1)C(F)(F)F | C21H23ClF3NO2S
